US06313126B1
3-(1,4-Dioxa-spiro[4,5]dec-8-yl)-2-methyl-1H-indole (2i)
A mixture of 3-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-2-methyl-1H-indole (2.39 g, 8.9 mmol) and 10% palladium on carbon (0.35 g) in ethanol (80 ml) was hydrogenated for 3 hours. The catalyst was filtered off and then a solution of methylene-methanol (80 ml) was used to dissolve any solids within the celite. The solvent removed under vacuum to afford 2.34 g (97%) of product as an off-white solid, which was triturated with ethyl ether (40 ml) to afford a white solid: mp 166-168° C. The mother liquor was concentrated to afford another 1.2 g of product as a yellow solid.

reactant | 3-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-2-methyl-1H-indole | 8.9 mmol, 2.39 g | O1CCOC12CC=C(CC2)C2=C(NC1=CC=CC=C21)C | C17H19NO2
catalyst | palladium on carbon | 0.35 g | [Pd] | Pd
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 3-(1,4-Dioxa-spiro[4,5]dec-8-yl)-2-methyl-1H-indole | 2.34 g, 97% | O1CCOC12CCC(CC2)C2=C(NC1=CC=CC=C21)C | C17H21NO2
